US04844835
A solution of 0.15 mole(15.0 g) of (S)-(+)-2-methylbutyric acid and 0.3 mole(35.5 g) of thionyl chloride in 100 ml of chloroform was refluxed for three hours. After chloroform and the excessive thionyl chloride had been distilled out at reduced pressure, the reaction solution was concentrated at reduced pressure to obtain 12.8 g of 2-methylbutyryl chloride. A suspension of 0.1 mole(13.3 g) of aluminium chloride in 100 ml of dry methylene chloride was cooled to 0° C., then 12.8 g of 2-methylbutyryl chloride was added dropwise thereto, and stirred for 30 min. Maintaining the mixed solution at 0° C., a solution of 0.08 mole(14.7 g) of 4-methoxybiphenyl in 80 ml of dry methylene chloride was added dropwise, and stirred for 10 hours at room temperature. The reaction mixture was decomposed by adding into ice and dil. hydrochloric acid, and the organic layer was washed with dil. hydrochloric acid and an aquious sodium hydrogen carbonate solution, and then dried with magnesium sulfate. The concentrated product was purified by column chromatography to obtain 10.3 g of 4'-methoxy-4-(2-methylbutyryl)biphenyl. (yield: 48%)

reactant | aluminium chloride | 0.1 mole, 13.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-methylbutyryl chloride | 12.8 g | CC(C(=O)Cl)CC | C5H9ClO
reactant | 4-methoxybiphenyl | 0.08 mole, 14.7 g | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 4'-methoxy-4-(2-methylbutyryl)biphenyl | 10.3 g, yield: 48% | COC1=CC=C(C=C1)C1=CC=C(C=C1)C(C(CC)C)=O | C18H20O2
